US05489570
Oxalyl chloride (2.6 ml) was added dropwise to a stirred suspension of 2-t-butyl-4-chloro-1,3-benzoxazole-7-carboxylic acid (6.2 g). Dry N,N-dimethylformamide (3 drops) was added and the mixture stirred at reflux for 2 hours and evaporated. Dichloromethane was added and the solution added dropwise to a stirred solution of methanol (dry, 3.0 ml) and triethylamine (dry, 10 ml) in dichloromethane at 0° C. After stirring at ambient temperature for 18 hours, the mixture was washed with hydrochloric acid (2M) water, sodium carbonate (2M), water, then dried magnesium sulphate) and evaporated to give methyl 2-t-butyl-4-chloro-1,3-benzoxazole-7-carboxylate (5.7 g) as a light brown solid, m.p. 130°-131° C.

reactant | Oxalyl chloride | 2.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-t-butyl-4-chloro-1,3-benzoxazole-7-carboxylic acid | 6.2 g | C(C)(C)(C)C=1OC2=C(N1)C(=CC=C2C(=O)O)Cl | C12H12ClNO3
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | methyl 2-t-butyl-4-chloro-1,3-benzoxazole-7-carboxylate | 5.7 g | C(C)(C)(C)C=1OC2=C(N1)C(=CC=C2C(=O)OC)Cl | C13H14ClNO3
